* C:\Users\DELL\Documents\IoT Year 2\Spring Semester\Analog Electronics 1 IT24SP\Assignments 1.1\2. LTspice\Simple_Resistive_Voltage_Divider.asc
* Generated by LTspice 26.0.1 for Windows.
R1 out in 1k
R2 0 out 1k
V1 in 0 10
.tran 100m
* This is a Simple Resistive Circuit
.backanno
.end
